US03944560
Step C: Preparation of 3'-isopropyl-7-methansulphonamido-2'-phenyl-3,4-dihydro-2H-1,5-benzodioxepin-3-spiro-5'-oxazolidine
The crude 7-amino-3'-isopropyl-2'-phenyl-3,4-dihydro-2H-1,5-benzodioxepin-3-spiro-5'-oxazolidine (352 mg.) is dissolved in dry ether (23 ml.) and 1,4-diazabicyclo[2,2,2]-octane (118 mg.; 1.065 mmole) is added. Methane sulphonyl chloride (105 mg.; 1.065 mmole) dissolved in dry ether (5 ml.) is added dropwise with stirring and the reaction mixture then is stirred at room temperature for 1 hour. The solid is filtered off and discarded: evaporation of the mother liquors affords 387.2 mg. (91%) of crude product.

reactant | 7-amino-3'-isopropyl-2'-phenyl-3,4-dihydro-2H-1,5-benzodioxepin-3-spiro-5'-oxazolidine | 352 mg | NC1=CC2=C(OCC3(CN(C(O3)C3=CC=CC=C3)C(C)C)CO2)C=C1 | C20H24N2O3
reactant | 1,4-diazabicyclo[2,2,2]-octane | 1.065 mmole, 118 mg | N12CCN(CC1)CC2 | C6H12N2
reactant | Methane sulphonyl chloride | 1.065 mmole, 105 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | ether | 23 ml | CCOCC | C4H10O
solvent | ether | 5 ml | CCOCC | C4H10O
product | 3'-isopropyl-7-methansulphonamido-2'-phenyl-3,4-dihydro-2H-1,5-benzodioxepin-3-spiro-5'-oxazolidine | C(C)(C)N1C(OC2(C1)COC1=C(OC2)C=CC(=C1)NS(=O)(=O)C)C1=CC=CC=C1 | C21H26N2O5S
